US05194441
2-Phenyl-4-(pyrid-3-yl)-5-(2-bromophenyl)-1,3-dioxolane
37 g (0.1258 mol) of 1-(pyrid-3-yl)-2-(2-bromophenyl)-ethanediol and 38.5 g (0.2516 mol) of benzaldehyde dimethyl acetal were refluxed together in 440 ml of 10:1 chlorobenzene/toluene with 1 g of p-toluenesulfonic acid. The resulting methanol was distilled off as an azeotrope with toluene. After the end of the reaction, the chlorobenzene was distilled off under reduced pressure and the product wa purified by chromatography over silica gel.

reactant | 1-(pyrid-3-yl)-2-(2-bromophenyl)-ethanediol | 0.1258 mol, 37 g | N1=CC(=CC=C1)C(CC1=C(C=CC=C1)Br)(O)O | C13H12BrNO2
reactant | benzaldehyde dimethyl acetal | 0.2516 mol, 38.5 g | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chlorobenzene toluene | 440 ml | ClC1=CC=CC=C1.C1(=CC=CC=C1)C
product | 2-Phenyl-4-(pyrid-3-yl)-5-(2-bromophenyl)-1,3-dioxolane | C1(=CC=CC=C1)C1OC(C(O1)C=1C=NC=CC1)C1=C(C=CC=C1)Br | C20H16BrNO2
